US09340527B2
To a solution of 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate (1.3 g, 5.35 mmol, 1.0 eq) in dry THF (35 mL) was added LDA (2N, 3.25 mL, 6.42 mmol, 1.2 eq) dropwise at −78° C. under N2. Then the mixture was stirred at −78° C. for 1 h. Then methyl carbonochloridate (0.55 g, 5.89 mmol, 1.1 eq) was added dropwise to this mixture. The resulting mixture was warmed to rt slowly for 4 h. Saturated NH4Cl solution was added to this mixture, extracted with EtOAc (75 mL×2), washed with brine (20 mL), dried over Na2SO4, filtered, and concentrated in vacuo to give 1-tert-butyl 4,4-dimethyl piperidine-1,4,4-tricarboxylate as yellow oil (1.25 g, Y: 78%).

reactant | 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate | 5.35 mmol, 1.3 g, 1.0 eq | N1(CCC(CC1)C(=O)OC)C(=O)OC(C)(C)C | C12H21NO4
reactant | LDA | 6.42 mmol, 2N, 3.25 mL, 1.2 eq | [Li+].CC(C)[N-]C(C)C
reactant | methyl carbonochloridate | 5.89 mmol, 0.55 g, 1.1 eq | C(OC)(=O)Cl | C2H3ClO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 4,4-dimethyl piperidine-1,4,4-tricarboxylate | N1(CCC(CC1)(C(=O)OC)C(=O)OC)C(=O)OC(C)(C)C | C14H23NO6
